US05721245
A solution of 18.9 g of ethyl indole-2-carboxylate in 100 ml of dimethylformamide was added to a suspension of 2.64 g of sodium hydride in 50 ml of dimethylformamide. After 1 hour, a solution of 20.9 g of ethyl 5-bromovalerate in 100 ml of dimethylformamide was added dropwise. After 48 hours, the mixture was poured into water, extracted with dichloromethane and the combined dichloromethane extracts were washed with water, dried and concentrated to give 26.2 g of ethyl 1-(4-ethoxycarbonylbutyl)indole-2-carboxylate.

reactant | ethyl indole-2-carboxylate | 18.9 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | sodium hydride | 2.64 g | [H-].[Na+]
reactant | ethyl 5-bromovalerate | 20.9 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 1-(4-ethoxycarbonylbutyl)indole-2-carboxylate | 26.2 g | C(C)OC(=O)CCCCN1C(=CC2=CC=CC=C12)C(=O)OCC | C18H23NO4
